US07605271B2
To a 50 ml four necked flask equipped with a stirrer, a dropping funnel, a cooling tube and a thermometer, 4.96 g (0.05 mol) of 1-methyl piperidine and 5 ml of toluene were charged, after heating to 50° C., 10.02 g (0.055 mol) of dipropyl sulfuric acid was dropped slowly taking one hour or more. After reacting for 10 hours, 13.37 g of 1-methyl-3-propyl piperidinium propyl sulfate was obtained by drying under a reduced pressure. Then, 13.37 g of the obtained 1-methyl-3-propyl piperidinium propyl sulfate was dissolved in 8 ml of water, and a solution in which 10.5 g of potassium bis(fluorosulfonyl)imide was dissolved in 8 ml of water was added thereto at a room temperature and stirred. From separated two layers, the lower layer was fractionated and by-products were removed by adding 40 wt % of purified water and water washing five times, and vacuum drying was applied to obtain 15.31 g of 1-methyl-3-propyl pyrrolinium bis(fluorosulfonyl) imide. As a result of ICP analysis, the total alkali metals was 1.8 ppm, chloride ion was 0.5 ppm, and each of iodide and bromide ions was 0.1 ppm or less (lower than ICP detection limit).

reactant | 1-methyl piperidine | 0.05 mol, 4.96 g | CN1CCCCC1 | C6H13N
reactant | dipropyl sulfuric acid | 0.055 mol, 10.02 g | C(CC)OS(OCCC)(=O)=O | C6H14O4S
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-3-propyl piperidinium propyl sulfate | 13.37 g | C(CC)OS(=O)(=O)[O-].C[NH+]1CC(CCC1)CCC | InChI=1S/C9H19N.C3H8O4S/c1-3-5-9-6-4-7-10(2)8-9;1-2-3-7-8(4,5)6/h9H,3-8H2,1-2H3;2-3H2,1H3,(H,4,5,6)
